US05665718
40.58 g (128.7 mmol) of ethyl (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto-[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 300 ml of ethanol and 32.5 ml (130 mmol) of 4N sodium hydroxide solution were heated to reflux on a steam bath for 1.5 hours. The alcohol was evaporated on a rotary evaporator. The aqueous phase was washed twice with methylene chloride and acidified to pH 3-4 with 32.5 ml (130 mmol) of 4N hydrochloric acid. The suspension obtained was cooled and filtered. The filter residue was washed with a small amount of ice water and dried. There were obtained 36.67 g (99%) of (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid of m.p. 159°-160°.

reactant | ethyl (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto-[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 128.7 mmol, 40.58 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC)CC3)=O)C1 | C16H14FN3O3
reactant | sodium hydroxide | 130 mmol, 4N, 32.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 130 mmol, 4N, 32.5 ml | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 36.67 g, 99% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CC3)=O)C1 | C14H10FN3O3
